US07048908B2
Preparation of Albuterol—Containing Powder Formulations
The albuterol sulfate powder formulations listed in Table 7, were prepared as follows. Pre-spray drying solutions were prepared by dissolving the lipid in ethanol and albuterol sulfate and leucine in water. The ethanol solution was then mixed with the water solution at a ratio of 70/30 ethanol/water. Final total solute concentration of the solution used for spray drying varied from 1 g/L to 3 g/L. As an example, the DPPC/leucine/albuterol sulfate (76/16/8) spray drying solution was prepared by dissolving 760 mg of DPPC in 700 mL of ethanol, dissolving 160 mg leucine and 870 mg of albuterol sulfate in 300 mL water and then mixing the two solutions to yield one liter of cosolvent with a total solute concentration of 1 g/L (w/v). Higher solute concentrations of 3 g/L (w/v) were prepared by dissolving three times more of each solute in the same volumes of ethnaol and water. The solution was spray-dried as described above for the insulin containing formulation. Specifically, the inlet temperature was from about 110° C. to about 140° C., and the outlet temperature ranged from about 45–57° C.

reactant | ethanol water | C(C)O.O
reactant | DPPC | 760 mg | CCCCCCCCCCCCCCCC(=O)OC[C@H](COP(=O)([O-])OCC[N+](C)(C)C)OC(=O)CCCCCCCCCCCCCCC | C40H80NO8P
reactant | albuterol sulfate | CC(C)(C)NCC(C=1C=CC(=C(C1)CO)O)O.OS(=O)(=O)O
reactant | albuterol sulfate | 870 mg | CC(C)(C)NCC(C=1C=CC(=C(C1)CO)O)O.OS(=O)(=O)O
solvent | ethanol | C(C)O | C2H6O
solvent | leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
solvent | water | O | H2O
solvent | ethanol | 700 mL | C(C)O | C2H6O
solvent | water | 300 mL | O | H2O
solvent | leucine | 160 mg | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
product | Albuterol | CC(C)(C)NCC(C=1C=CC(=C(C1)CO)O)O | C13H21NO3
